US07767677B2
A solution of 2-hydroxy-4-oxo-4-pyridin-2-ylbutyric acid ethyl ester (2.910 g, 13.000 mmol) in 20 mL of 1-buanol was treated with 0.65 mL (1:1 ratio) of hydrazine hydrate, and the mixture was refluxed overnight. The solvents were evaporated to dryness to give 2.000 g (11.500 mmol) of 6-pyridin-2-yl-2H-pyridazin-3-one as a dark solid, which was used in the next step without further purification.

reactant | 2-hydroxy-4-oxo-4-pyridin-2-ylbutyric acid ethyl ester | 13.000 mmol, 2.910 g | C(C)OC(C(CC(C1=NC=CC=C1)=O)O)=O | C11H13NO4
reactant | hydrazine hydrate | 0.65 mL | O.NN
product | 6-pyridin-2-yl-2H-pyridazin-3-one | 11.500 mmol, 2.000 g | N1=C(C=CC=C1)C=1C=CC(NN1)=O | C9H7N3O
